US09388189B2
(S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxyphenyl)-4-hydroxybenzenesulfonamide
(S)—N-(3-(4-amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxyphenyl)-4-methoxybenzenesulfonamide (25 mg, 0.04 mmol) was treated with boron tribromide (1M in dichloromethane, 118 μl, 0.12 mmol) in dichloromethane (3 ml) according to the method described in Example 23. The residue was purified by reverse phase using SP1® Purification System to give 10 mg (38% yield) as a solid. Purity 93%.

reactant | (S)—N-(3-(4-amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxyphenyl)-4-methoxybenzenesulfonamide | 0.04 mmol, 25 mg | NC1=NC=NC(=C1C=1C=C(C=C(C1)O)NS(=O)(=O)C1=CC=C(C=C1)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C32H30N8O5S
reactant | boron tribromide | 0.12 mmol, 1M, 118 μl | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxyphenyl)-4-hydroxybenzenesulfonamide | 38% yield | NC1=NC=NC(=C1C=1C=C(C=C(C1)O)NS(=O)(=O)C1=CC=C(C=C1)O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C31H28N8O5S
